US04407798
A mixture of methyl 2-amidino-2-ethoxyiminoacetate hydrochloride (syn isomer) (2.1 g), 2-chloroacrylonitrile (875 mg) and triethylamine (2.0 g) in ethanol (21 ml) was stirred for 8 hours at ambient temperature and allowed to stand at the same temperature overnight. The mixture was evaporated to dryness and the residue was dissolved in a mixture of ethyl acetate (20 ml) and water (10 ml). The organic layer was separated out, treated with activated charcoal and evaporated to dryness. The residue was purified by a column chromatography on silica gel (30 g) using ethyl acetate-benzene (1:1) as an eluant to give a mixture (1.0 g) of methyl 2-ethoxyimino-2-(4-aminopyrimidin-2-yl)acetate (syn isomer) and ethyl 2-ethoxyimino-2-(4-aminopyrimidin-2-yl)acetate (syn isomer) (1:1). mp 105° to 110° C.

reactant | methyl 2-amidino-2-ethoxyiminoacetate hydrochloride | 2.1 g | Cl.C(N)(=N)C(C(=O)OC)=NOCC
reactant | 2-chloroacrylonitrile | 875 mg | ClC(C#N)=C | C3H2ClN
reactant | triethylamine | 2.0 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 21 ml | C(C)O | C2H6O
product | methyl 2-ethoxyimino-2-(4-aminopyrimidin-2-yl)acetate | 1.0 g | C(C)ON=C(C(=O)OC)C1=NC=CC(=N1)N | C9H12N4O3
